US05155113
Preparation of 4-hydroxy-2-(2-methylbenzoyloxy)-pyridine
The general procedure of Example 27 was followed using 4.0 g of 2,4-bis(trimethylsilyloxy)-pyridine and 2.92 g of 2-methylbenzoyl chloride, thereby producing 1.59 g of the title compound in a yield of 44.18%.

reactant | 2,4-bis(trimethylsilyloxy)-pyridine | 4.0 g | C[Si](OC1=NC=CC(=C1)O[Si](C)(C)C)(C)C | C11H21NO2Si2
reactant | 2-methylbenzoyl chloride | 2.92 g | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
product | 4-hydroxy-2-(2-methylbenzoyloxy)-pyridine | 1.59 g, yield of 44.18% | OC1=CC(=NC=C1)OC(C1=C(C=CC=C1)C)=O | C13H11NO3
